US06747023B1
1-[N-(5-tert-Butoxycarbonyl -4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-N-methylcarbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In N,N-dimethylformamide (10 ml), 1-[N-(5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine (147 mg) was dissolved. To the resulting solution, sodium hydride (60% in oil, 22 mg) was added, followed by stirring at room temperature for 30 minutes. After methyl iodide (0.023 ml) was added to the reaction mixture and the resulting mixture was stirred at room temperature for 90 minutes, the residue obtained by the concentration of the reaction mixture under reduced pressure was added with ethyl acetate. The resulting mixture was washed with water and saturated aqueous NaCl solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=2:1), whereby the title compound (43 mg) was obtained.

reactant | 1-[N-(5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)carbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | 147 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)NC(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C27H31ClN4O5S2
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | methyl iodide | 0.023 ml | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[N-(5-tert-Butoxycarbonyl -4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)-N-methylcarbamoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)N(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl)C | C28H33ClN4O5S2
